US05858995
A mixture of 7-amino-2,3-dimethylbenzo[b]furan (161 mg), triethylamine (202 mg) and 3,6-dichlorophthalic anhydride (261 mg) in dichloromethane (5 ml) was stirred at ambient temperature for 1 hour. The reaction mixture was washed with 1N-hydrochloric acid and brine, dried over sodium sulfate and concentrated in vacuo. The residue was dissolved in methanol and treated with diazomethane. The separated solid was collected and washed with methanol to give 7-(3,6-dichlorophthalimido)-2,3-dimethylbenzo[b]furan (250 mg).

reactant | 7-amino-2,3-dimethylbenzo[b]furan | 161 mg | NC1=CC=CC2=C1OC(=C2C)C | C10H11NO
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
reactant | 3,6-dichlorophthalic anhydride | 261 mg | ClC1=C2C(C(=O)OC2=O)=C(C=C1)Cl | C8H2Cl2O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 7-(3,6-dichlorophthalimido)-2,3-dimethylbenzo[b]furan | 250 mg | ClC1=C2C(C(=O)N(C2=O)C2=CC=CC3=C2OC(=C3C)C)=C(C=C1)Cl | C18H11Cl2NO3
